US08044043B2
(6R,9R)-6-(2,3-difluorophenyl)-3-(dimethylamino)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo [4,5-b]pyridin-1-yl)piperidine-1-carboxylate.
(6R,9R)-6-(2,3-Difluorophenyl)-3-(dimethylamino)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol (27.6 mg, 0.087 mmol) with stirring bar was azeotroped by benzene. Sodium hydride (20.80 mg, 0.867 mmol) was added to the THF (3 mL) suspension of (6R,9R)-6-(2,3-difluorophenyl)-3-(dimethylamino)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol (27.6 mg, 0.087 mmol) and 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (43.2 mg, 0.113 mmol) at rt. The reaction was stirred at this temperature overnight. The reaction was quenched by water and partitioned between ethyl acetate and water. The ethyl acetate layer was washed by water two more times before dried (Na2SO4), filtered and concentrated. Flash column by methanol in CH2Cl2 from 0 to 4% to 8% gave the desired product (19.8 mg, 36%). MS(ESI)[M+H−]=563.35; 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 10.30 (br.s., 1H) 8.08 (d, J=5.49 Hz, 1H) 7.95-8.05 (m, 1H) 7.37-7.53 (m, 1H) 6.94-7.14 (m, 4H) 6.79 (br.s., 1H) 6.00 (d, J=10.38 Hz, 1H) 4.66 (br.m., 3H) 3.32 (t, J=12.67 Hz, 1H) 3.08 (br.m., 2H) 2.91-3.02 (m, 6H) 2.29 (d, J=13.73 Hz, 2H) 2.13-2.24 (m, 2H) 1.86-2.07 (m, 2H) 1.20-1.40 (m, 3H) 0.75-0.98 (m, 1H).

reactant | (6R,9R)-6-(2,3-Difluorophenyl)-3-(dimethylamino)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol | 0.087 mmol, 27.6 mg | FC1=C(C=CC=C1F)[C@H]1CC=2C(=NC=C(C2)N(C)C)[C@@H](CC1)O | C18H20F2N2O
reactant | Sodium hydride | 0.867 mmol, 20.80 mg | [H-].[Na+]
reactant | (6R,9R)-6-(2,3-difluorophenyl)-3-(dimethylamino)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol | 0.087 mmol, 27.6 mg | FC1=C(C=CC=C1F)[C@H]1CC=2C(=NC=C(C2)N(C)C)[C@@H](CC1)O | C18H20F2N2O
reactant | 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 0.113 mmol, 43.2 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H17N5O5
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (6R,9R)-6-(2,3-difluorophenyl)-3-(dimethylamino)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo [4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 19.8 mg, 36% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H](CC=2C1=NC=C(C2)N(C)C)C2=C(C(=CC=C2)F)F | C30H32F2N6O3
